US07504508B2
Methyl 4-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}-2,6-difluorophenoxy)-2,2-dimethylbutanoate (H-29)
N-(4-chlorophenyl)-N-[(2S,4R)-1-(3,5-difluoro-4-hydroxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide (150 mg, 0.32 mmol) was dissolved in DMF at room temperature and Cs2CO3 (259 mg, 0.80 mmol) was added. Methyl 4-bromo-2,2-dimethylbutanoate (157 mg, 0.48 mmol) was added and the reaction was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water, then extracted three times with ethyl acetate, dried over MgSO4, filtered and concentrated. The crude residue was purified by silica gel chromatography (hexanes-ethyl acetate system) to afford the product (118 mg, 61%).

reactant | N-(4-chlorophenyl)-N-[(2S,4R)-1-(3,5-difluoro-4-hydroxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide | 0.32 mmol, 150 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC(=C(C(=C1)F)O)F)=O)C | C25H21ClF2N2O3
reactant | Cs2CO3 | 0.80 mmol, 259 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Methyl 4-bromo-2,2-dimethylbutanoate | 0.48 mmol, 157 mg | BrCCC(C(=O)OC)(C)C | C7H13BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 4-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}-2,6-difluorophenoxy)-2,2-dimethylbutanoate | 118 mg, 61% | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC(=C(OCCC(C(=O)OC)(C)C)C(=C1)F)F)C)C1=CC=C(C=C1)Cl | C32H33ClF2N2O5
